US06087380
1-Methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 10 from 1-methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride and sodium hydroxide solution. Yield: 57% of theory, C26H25N5O3S (487.58) Rf value: 0.23 (Reversed Phase silica gel RP-8; Methanol/5% saline solution=6:4) ##EQU93##

reactant | 1-methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)SCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Methanol | CO | CH4O
product | 1-Methyl-2-[(4-amidinophenyl)methylthio]-benzimidazol-5-yl-carboxylic acid-N-phenyl-N-(2-hydroxycarbonylethyl)-amide-hydrochloride | Yield: 57% | Cl.C1(=CC=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)SCC2=CC=C(C=C2)C(N)=N)C)C=C1)CCC(=O)O | InChI=1S/C26H25N5O3S.ClH/c1-30-22-12-11-19(25(34)31(14-13-23(32)33)20-5-3-2-4-6-20)15-21(22)29-26(30)35-16-17-7-9-18(10-8-17)24(27)28;/h2-12,15H,13-14,16H2,1H3,(H3,27,28)(H,32,33);1H
